US04272541
B. 17-Cyano-4,5α-epoxy-8β-ethyl-3-methoxymorphinan-6-one
4,5α-Epoxy-8β-ethyl-3-methoxy-17-methylmorphinan-6one (5.00 g, 13.7 mmole; prepared in Part A) was dissolved in 50 ml chloroform. After the addition of K2CO3 (2.84 g, 20.6 mmole), the stirred suspension was treated dropwise with a solution of cyanogen bromide (1.95 g, 18.4 mmole) in 40 ml chloroform. The mixture was stirred at room temperature for 30 minutes and heated for 1.5 hours at reflux temperature. After cooling, the insoluble material was removed from the mixture by filtration and the filtrate was evaporated to a crystalline residue which was boiled with ethanol (30 ml). After chilling, the crystals were collected to give 4.30 g (92%) of white needles, mp sinters 194° C., melts 197°-198.5° C.

reactant | 4,5α-Epoxy-8β-ethyl-3-methoxy-17-methylmorphinan-6one | O1C2=C(C=CC=3C[C@@H]4[C@@H]5[C@H](CC([C@H]1[C@@]5(C23)CCN4C)=O)CC)OC | C20H25NO3
reactant | K2CO3 | 20.6 mmole, 2.84 g | C(=O)([O-])[O-].[K+].[K+]
reactant | cyanogen bromide | 18.4 mmole, 1.95 g | N#CBr | CBrN
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | 17-Cyano-4,5α-epoxy-8β-ethyl-3-methoxymorphinan-6-one | 4.30 g, 92% | C(#N)N1[C@H]2[C@@H]3[C@H](CC([C@H]4[C@@]3(C=3C(=C(C=CC3C2)OC)O4)CC1)=O)CC | C20H22N2O3
